US09376420B2
Step 1: 3-(3-bromo-phenyl)-N-methoxy-N-methylacrylamide
3-Bromocinnamic acid (15.3 g, 67.3 mmol), N,O-dimethylhydroxylamine hydrochloride (7.9 g, 80.8 mmol), HOBT (18.2 g, 134.7 mmol), EDAC (25.8 g, 134.7 mmol) and triethylamine (18.7 mL, 134.68 mmol) were added to dichloromethane (500.0 mL). The reaction mixture was stirred at room temperature for 16 hours, quenched with a saturated solution of ammonium chloride, and then extracted with dichloromethane three times. The combined extract was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/3) to give 14.8 g of the titled compound as a yellow liquid.

reactant | 3-Bromocinnamic acid | 67.3 mmol, 15.3 g | BrC=1C=C(C=CC(=O)O)C=CC1 | C9H7BrO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 80.8 mmol, 7.9 g | Cl.CNOC
reactant | HOBT | 134.7 mmol, 18.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 134.7 mmol, 25.8 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 134.68 mmol, 18.7 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500.0 mL | ClCCl | CH2Cl2
product | 3-(3-bromo-phenyl)-N-methoxy-N-methylacrylamide | 14.8 g | BrC=1C=C(C=CC1)C=CC(=O)N(C)OC | C11H12BrNO2
